US05380724
6-[4-[2-Hydroxy-3-[4-(tert-butoxycarbonyl)-1-piperazinyl]-propoxy]phenyl]-2,4,7-triaminopteridine
Sodium metall (0.22 g, 9.6 mg-atom) was dissolved in 2-ethoxyethanol (60 ml) at 40°-50° C., the solution was cooled to room temperature and 5-nitroso-2,4,6-triamino-pirimidine (1.46 g, 9.5 mmol) was added, followed by 4-[2-hydroxy-3-[4-(tert-butoxy-carbonyl)-1-piperazinyl]propoxy]benzylcyanide (3.92 g, 10.4 mmol) prepared as described in Example 45. The mixture was stirred under reflux in an atmosphere of nitrogen for one hour and the obtained dark brown solution was cooled to room temperature. After dilution with 200 ml of ethyl acetate the precipitate was collected, washed with ethyl acetate and dried to yield a yellow powder, mp. 244°-246° C. (dec.). The filtrate was concentrated and the residue was dissolved in 30 ml of methanol. After treatment with decolorizing carbon the solution was concentrated to a volume of 10 ml and the separated crystals were collected. Total yield of the two generations: 84.8%.

reactant | Sodium | 0.22 g | [Na] | Na
reactant | 5-nitroso-2,4,6-triamino-pirimidine | 9.5 mmol, 1.46 g | N(=O)C=1C(=NC(=NC1N)N)N | C4H6N6O
reactant | 4-[2-hydroxy-3-[4-(tert-butoxy-carbonyl)-1-piperazinyl]propoxy]benzylcyanide | 10.4 mmol, 3.92 g | OC(COC1=CC=C(CC#N)C=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C20H29N3O4
solvent | 2-ethoxyethanol | 60 ml | C(C)OCCO | C4H10O2
product | 6-[4-[2-Hydroxy-3-[4-(tert-butoxycarbonyl)-1-piperazinyl]-propoxy]phenyl]-2,4,7-triaminopteridine | OC(COC1=CC=C(C=C1)C=1N=C2C(=NC(=NC2=NC1N)N)N)CN1CCN(CC1)C(=O)OC(C)(C)C | C24H33N9O4
